US07034039B2
To a solution of tert-butyl(4-butoxy-2-isobutyl-6{[methoxy(methyl)amino]carbonyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.49 g, 1 mmol) in tetrahydrofuran (10 ml) was added 1N methylmagnesium bromide tetrahydrofuran solution (5 ml) at 0° C. The mixture was stirred at 0° C. for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl(6-acetyl-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.37 g, 84.1%) as crystals.

reactant | tert-butyl(4-butoxy-2-isobutyl-6{[methoxy(methyl)amino]carbonyl}-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1 mmol, 0.49 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(=O)N(C)OC)=O)CC(C)C)=O | C26H39N3O6
reactant | methylmagnesium bromide tetrahydrofuran | 1N, 5 ml | O1CCCC1.C[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-butyl(6-acetyl-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.37 g, 84.1% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C(C)=O)=O)CC(C)C)=O | C25H36N2O5
